US06673800B2
Preparation of 1-[3-(3-Phenyl4,5-dihydroisoxazol-5-yl)propyl]4-(2-methylphenyl)piperazine
3-(3-Phenyl-4,5-dihydroisoxazol-5-yl)propanal (27.3 mg, 0.124 mmol), 1-(o-tolyl) piperazine (20.0 mg, 0.113 mmol), molecular sieve (5 beads) and NaBH(OAc)3 (72.1 mg, 0.340 mmol) were reacted in 3 mL of methylene chloride for about 12 hr. With the following processes the same as in Example 1, 30.1 mg (73.1%) of the target compound was obtained.

reactant | 3-(3-Phenyl-4,5-dihydroisoxazol-5-yl)propanal | 0.124 mmol, 27.3 mg | C1(=CC=CC=C1)C1=NOC(C1)CCC=O | C12H13NO2
reactant | 1-(o-tolyl) piperazine | 0.113 mmol, 20.0 mg | C1(=C(C=CC=C1)N1CCNCC1)C | C11H16N2
reactant | NaBH(OAc)3 | 0.340 mmol, 72.1 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-[3-(3-Phenyl4,5-dihydroisoxazol-5-yl)propyl]4-(2-methylphenyl)piperazine | 30.1 mg, 73.1% | C1(=CC=CC=C1)C1=NOC(C1)CCCN1CCN(CC1)C1=C(C=CC=C1)C | C23H29N3O
